US04145435
Procedure VI -- Alternate Method for Preparing trans-N,N,N'-Trimethyl-1,2-cyclohexanediamine
A solution of trans-2-dimethylaminocyclohexanol (61.1 g., 0.427 mole) prepared as in Procedure I, Part A, using dimethylamine instead of methylamine in 85 ml. of THF is added during 5 min. to a suspension of NaH (17.97 g., 0.427 mole of 57% dispersion in mineral oil) in 250 ml. of THF, and the mixture is heated at 95° for 2 hrs. It is cooled to 10° and treated dropwise with methanesulfonyl chloride (48.91 g., 0.427 mole) during 40 min. keeping the temperature at 15°. N-Methylbenzylamine (103.48 g., 0.854 mole distilled) is then added, THF is evaporated and heating is continued at 95° for 18 hr. The mixture is treated with 500 ml. of 20% NaOH, heated at 95°, cooled and extracted with ether (6 × 100 ml.). The ether solution is extracted with 10% HCl (6 × 100 ml.), backwashed with ether (discard ether), cooled, basified with 20% NaOH and extracted with ether. The ether extract is washed with H2O, saturated salt solution, dried (MgSO4) and evaporated to give 48.6 g. of crude N,N,N'-trimethyl-N'-benzyl-1,2-cyclohexanediamine as an oil. A solution of this oil (46.6 g.) is hydrogenated in two portions, each in 130 ml. of EtOH, with 2.6 g. of 10% Pd-C and 28.6 g. of 70% HClO4 for 22 hrs. The mixture is filtered through Celite, the filtrate evaporated, cooled in ice, and basified with 40% KOH. The resulting thick suspension is extracted with ether (4 × 200 ml.), the ether extract dried (MgSO4) and evaporated. The product boils at 87°-88° (16 min.). Vpc-mass spectrum showed that the first peak (3.4 min.) is N,N-dimethyl-1,2-cyclohexanediamine, and the second peak (4.1 min.) the desired N,N,N'-trimethyl-1,2-cyclohexanediamine.

reactant | trans-2-dimethylaminocyclohexanol | 0.427 mole, 61.1 g | CN([C@H]1[C@@H](CCCC1)O)C | C8H17NO
reactant | dimethylamine | CNC | C2H7N
reactant | NaH | 0.427 mole, 17.97 g | [H-].[Na+]
reactant | methanesulfonyl chloride | 0.427 mole, 48.91 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-Methylbenzylamine | 0.854 mole, 103.48 g | CNCC1=CC=CC=C1 | C8H11N
reactant | N,N,N'-trimethyl-N'-benzyl-1,2-cyclohexanediamine | CN(C1C(CCCC1)N(CC1=CC=CC=C1)C)C | C16H26N2
catalyst | Pd-C | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | trans-N,N,N'-Trimethyl-1,2-cyclohexanediamine | CN([C@H]1[C@@H](CCCC1)NC)C | C9H20N2
